US05189054
Preparation of 3-[(m-fluorophenacyl)methylamino]-2-carboxy-6-chloroindole
Dissolve 3-[(m-fluorophenacyl)methylamino]-2-carbmethoxy-6-chloroindole (650 mg, 1.8 mmol) in tetrahydrofuran (10 mL) and water (10 mL). Add lithium hydroxide (227 mg, 5.4 mmol). Add methanol dropwise until an homogeneous solution forms. Stir the reaction at room temperature overnight. Dilute the reaction with water(10 mL) and ethyl acetate (25 mL). Acidify with 1N HCl and separate the layers. Dry the organic phase over magnesium sulfate, filter and concentrate 50% with heat. Reconstitute with hot hexane. Repeat the concentration and reconstitution steps and cool to yield the title compound (550 mg, 89%); mp 258°-260° C.

reactant | 3-[(m-fluorophenacyl)methylamino]-2-carbmethoxy-6-chloroindole | 1.8 mmol, 650 mg | FC=1C=C(C(CCNC2=C(NC3=CC(=CC=C23)Cl)C(=O)OC)=O)C=CC1 | C19H16ClFN2O3
reactant | lithium hydroxide | 5.4 mmol, 227 mg | [OH-].[Li+]
reactant | methanol | CO | CH4O
reactant | ethyl acetate | 25 mL | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | water | 10 mL | O | H2O
solvent | water | 10 mL | O | H2O
product | 3-[(m-fluorophenacyl)methylamino]-2-carboxy-6-chloroindole | 550 mg, 89% | FC=1C=C(C(CCNC2=C(NC3=CC(=CC=C23)Cl)C(=O)O)=O)C=CC1 | C18H14ClFN2O3
